US07674793B2
3-[Bis-(2-hydroxy-6-oxo-cyclohex-1-enyl)-amino]-benzonitrile
2-Diazo-cyclohexane-1,3-dione (2 mmoL), prepared by the literature known procedure, 3-cyano-aniline (1 mmoL) and rhodium acetate dimmer (0.01 mmoL) in benzene (10 mL) were heated at 80° C. for 4˜6 hrs. The solid was filtered off and the filtrate was concentrated to give a yellow oil, which was purified by silica gel chromatography to afford the title compound as a white solid.

reactant | 2-Diazo-cyclohexane-1,3-dione | [N+](=[N-])=C1C(CCCC1=O)=O | C6H6N2O2
reactant | 3-cyano-aniline | C(#N)C=1C=C(N)C=CC1 | C7H6N2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
catalyst | rhodium acetate | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | 3-[Bis-(2-hydroxy-6-oxo-cyclohex-1-enyl)-amino]-benzonitrile | OC1=C(C(CCC1)=O)N(C=1C=C(C#N)C=CC1)C1=C(CCCC1=O)O | C19H18N2O4
